US08124606B2
Compound 68B: (S)-methyl 6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazine-3-carboxylate:
In a bomb hydroginator, (S)-methyl 6-(2-(methoxycarbonyl)piperidin-1-yl)-5-nitronicotinate (1.95 g, 6.03 mmol), triphenyl phosphite (0.019 ml, 0.060 mmol), ammonium vanadate (0.056 g, 0.483 mmol) and platinum (5% on carbon, 0.235 g, 0.060 mmol) were mixed in dichloromethane (Volume: 30.2 ml) to give a suspension. The bomb was sealed and pressurized to 110 psi with hydrogen gas. The reaction was stirred at 110 psi 16 h, depressurized, diluted with DCM (100 mL) and refluxed 10 minutes. The hot mixture was filtered through celite and washed with DCM (50 mL). The filtrate was concentrated in vacuo to yield 1.4 g (89%) of the product as a white solid and used without further purification. [M+H] calc'd for C13H15N3O3, 262. found, 262.

reactant | (S)-methyl 6-(2-(methoxycarbonyl)piperidin-1-yl)-5-nitronicotinate | 6.03 mmol, 1.95 g | COC(=O)[C@H]1N(CCCC1)C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C14H17N3O6
reactant | triphenyl phosphite | 0.060 mmol, 0.019 ml | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 30.2 ml | ClCCl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | ammonium vanadate | 0.483 mmol, 0.056 g | N.O[V](=O)=O
catalyst | platinum | 0.060 mmol, 0.235 g | [Pt] | Pt
product | (S)-methyl 6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazine-3-carboxylate | 1.4 g, 89% | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCCC2 | C13H15N3O3
